US06458798B1
N-(2-Amino-5-butyl-6-methylpyrimidine-4-yl)-N-pentylamine
A mixture of 5-butyl-4-chloro-6-methylpyrimidine-2-yl amine (100 mg, 0.5 mmol) and amylamine (2 ml) was refluxed for 11 hours. The reaction mixture was cooled and the solvent was removed in vacuo and the residue was purified by silica gel column chromatography (MeOH:CHCl3=1:20) to give the object compound (98 mg, 78%) as an oil.

reactant | 5-butyl-4-chloro-6-methylpyrimidine-2-yl amine | 0.5 mmol, 100 mg | C(CCC)C=1C(=NC(=NC1C)N)Cl | C9H14ClN3
reactant | amylamine | 2 ml | C(CCCC)N | C5H13N
product | N-(2-Amino-5-butyl-6-methylpyrimidine-4-yl)-N-pentylamine | 98 mg, 78% | NC1=NC(=C(C(=N1)NCCCCC)CCCC)C | C14H26N4
